US05677455
The methyl (3R,6E)-3[(tert-butyldimethylsilyl)oxy]-7-(2,4-dichlorophenyl)-5-oxo-6-heptenoate is treated with hydrogen fluoride to remove the tert-butyldimethylsilyl group so as to give methyl (3R,6E)-7-(2,4-dichlorophenyl)-5-oxo-3-hydroxy-6-heptenoate, which is in turn converted into methyl (3R,5S,6E)-7-(2,4-dichlorophenyl)-3,5-dihydroxy-6-heptenoate by the Syn reduction using diethylmethoxyborane and sodium borohydride, in the manner described in Japanese Patent Provisional Publication H5 (1993)-178841. Thus obtained methyl (3R,5S,6E)-7-(2,4-dichlorophenyl)-3,5-dihydroxy-6-heptenoate is treated with sodium hydroxide and hydrochloric acid in the manner as described in Journal of Medicinal Chemistry, 1985, vol. 28, No. 3, pp. 347-358, to give the (+)-trans-(E)-6-[2-(2,4-dichlorophenyl)ethenyl]-3,4,5,6-tetrahydroxy-2H-pyran-2-one having the HMG-Co A reductase preventive action.

reactant | methyl (3R,6E)-3[(tert-butyldimethylsilyl)oxy]-7-(2,4-dichlorophenyl)-5-oxo-6-heptenoate | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(\C=C\C1=C(C=C(C=C1)Cl)Cl)=O | C20H28Cl2O4Si
reactant | hydrogen fluoride | F | FH
product | methyl (3R,6E)-7-(2,4-dichlorophenyl)-5-oxo-3-hydroxy-6-heptenoate | ClC1=C(C=CC(=C1)Cl)/C=C/C(C[C@H](CC(=O)OC)O)=O | C14H14Cl2O4
